US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid
The title compound was prepared from 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoic acid as in Example 1, Part C, followed by hydrolysis of the resulting methyl ester as in EXAMPLE 2, Part E. HPLC: RT=9.75 min. MS (ESI−): mass calcd. for C22H15Br2FN4O5S2, 658.32; m/z found, 655/657/659 [M−H]−. 1H NMR (400 MHz, acetone-d6): 11.76 (s, 1H), 8.46-8.41 (m, 1H), 8.32-8.27 (m, 1H), 8.16-8.09 (m, 1H), 7.93-7.82 (m, 2H), 7.66-7.60 (m, 1H), 7.53-7.47 (m, 1H), 7.41-7.34 (m, 1H), 7.24-7.11 (m, 2H), 4.95-4.86 (m, 1H), 3.39-3.31 (m, 1H), 3.21-3.12 (m, 1H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Br | C13H8BrN3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)F)Br)C=CC(=C2)Br | C22H15Br2FN4O5S2
